* NGSPICE test bench for Electronics 365 Practical 1
* -----------------------------------------------------------
* Author:	Coenrad Fourie & Tessa Hall
* Last Mod:	15 August 2020
* -----------------------------------------------------------
* INFO: Practical 1 Differntial Amplifier will plug into this
*       testbench for analysis. It must pass all checks for 
*       full marks.
* -----------------------------------------------------------
* THIS TEST BENCH IS ONLY FOR STUDENT NUMBERS ENDING IN 5!!!
* -----------------------------------------------------------

* Student amplifier is subckt "diffamp" in file "yourstudentnumber.cir" - Use your student number
.include yourstudentnumber.cir

* ================= DIFFERENTIAL AMPLIFIER =================
* Pins: Sig1	Sig2	Out	Supply+	Supply-	[subckt name]
Xamp	in1	in2	out	vcc	vee	diffamp

* Voltage Sources
VCC   vcc   0     10
VEE   vee   0    -10

* Common mode input voltage:
Vcm   nVcm   0  0   AC    0  0

* Differential mode input voltage (VCVS's)
Ed1   in1  nVcm  nControl  0  0.5
Ed2   in2  nVcm  nControl  0 -0.5

* Separate control voltage for the differential voltage
Vd    nControl 0 0  AC 1  0
Rd    nControl 0 10k

.control

* Run an ac analysis with Vd = 1 Vac - this gives Diff mode gain Ad  
AC DEC 101 1 10k

* Now set Vd[acmag]=0, and Vcm[acmag]=1  
alter @Vd[acmag]=0 
alter @Vcm[acmag]=1

* Run ac analysis again; now with Vcm = 1 Vac. This gives Common mode gain Acm  
AC DEC 101 1 10k

* Measure common mode gain (single sided) at VC2  
meas ac acommon min ac.v(out)

* Measure differential mode gain (single sided) at VC2, but on previous AC simulation 
meas ac adiff  max ac1.v(out)

* Now calculate the CMRR and print out 
let CMRR = abs(adiff/acommon) 
echo CMRR = "$&CMRR" 
let CMRRdb = 20*log10(CMRR)  
echo CMRRdb = "$&CMRRdb"  

* Determine and print out mark
let mark = 0 
if adiff > 10.0
    let mark = mark + 2
end
if acommon > -2e-4
    let mark = mark + 2
end
if CMRRdb > 94.7
    let mark = mark + 1
end
echo
echo FINAL MARK = "$&mark"

.endc
.end